US04610816
A. 4-Phenylphenylpyruvic Acid
40 g of Potassium t-butoxide was added to 150 ml of diethyl oxalate in small portions with stirring. After the initial exothermic reaction subsided, the reaction mixture was heated on a steam bath under nitrogen in order to dissolve solids. After cooling down to room temperature, 79 g of 4-biphenyl acetic acid methyl ester was added in one portion. The mixture was stirred at 60°-70° C. for 2 hours while low boiling material was removed under vaccum. On cooling to room temperature, the viscous residue was stirred with 200 ml of ether and 350 ml of water with cooling. The ether layer was separated and extracted once with 100 ml of water. The aqueous layers were combined, extracted once with ether, made acidic with concentrated HCl (cooling) and extracted with 2×300 ml of ether. Some solids did not dissolve in the ether layer and were filtered. The ether layer was then evaporated to dryness. and the semi solid residue was combined with the preceeding solids. A mixture of 160 ml of conc. HCl and 350 ml of acetic acid was added to the solids and heated under reflux for 21/2 hours. On cooling down to ca. 50° C. a solid preciptated, which was filtered and washed with 150 ml of water. The wet solid was stirred with 150 ml of acetonitrile for five minutes, then filtered and dried under high vaccum at room temperature for 3 hours. 42.2 g of the title compound m.p. 215°-218° C. were obtained.

reactant | Potassium t-butoxide | 40 g | CC(C)([O-])C.[K+]
reactant | 4-biphenyl acetic acid methyl ester | 79 g | COC(CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C15H14O2
reactant | diethyl oxalate | 150 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 4-Phenylphenylpyruvic Acid | 42.2 g | C1(=CC=CC=C1)C1=CC=C(C=C1)CC(C(=O)O)=O | C15H12O3
